data/mechanism_extracts/JACS/10.1021_jacs.4c02975.json
{"doi": "10.1021_jacs.4c02975", "journal": "JACS", "is_review": false, "rxn_class_summary": "Enantioselective Paternò–Büchi [2+2] photocycloaddition between 3-alkoxyquinolones and aryl α-ketoesters (benzoylformates) sensitized by a hydrogen-bonding chiral Ir photocatalyst to give chiral oxetanes.", "mechanism_family": ["photoredox_combined", "biradical", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "Ground-state H-bonded complex between chiral Ir photocatalyst (pyrazole N–H) and 3-isopropoxyquinolone substrate (2)", "smiles": null, "role": "resting_state"}, {"name": "Triplet excited Ir*–quinolone H-bonded complex (3[IrN–H]*·2)", "smiles": null, "role": "reactive"}, {"name": "Free triplet aryl α-ketoester (e.g. 3e*, (n,π*) triplet with oxyl radical character) generated by Dexter energy transfer within the solvent cage", "smiles": null, "role": "reactive"}, {"name": "Triplet 1,4-biradical from C–O bond formation between triplet ketoester oxygen and quinolone alkene (Paternò–Büchi biradical)", "smiles": null, "role": "transient"}, {"name": "Free (cage-escaped) triplet ketoester reacting with unbound quinolone (racemic pathway)", "smiles": null, "role": "off_pathway"}, {"name": "Triplet quinolone 2* generated by competitive Dexter energy transfer to bound quinolone (transposed Paternò–Büchi pathway)", "smiles": null, "role": "off_pathway"}, {"name": "Enantioenriched oxetane cycloadduct (e.g. 4e)", "smiles": null, "role": "reactive"}], "electron_flow": "No net electron transfer: the chiral Ir photocatalyst is excited by visible light and, while H-bonded to the quinolone, transfers triplet energy by Dexter mechanism preferentially to the unbound aryl α-ketoester within the solvent cage; the triplet (n,π*) ketoester then attacks the bound quinolone alkene to form a triplet 1,4-biradical that closes to the oxetane (triplet rebound), with chirality conferred by the catalyst–quinolone H-bond.", "rate_determining_step": "Partition between productive in-cage reaction of triplet ketoester with H-bonded quinolone (high ee) versus cage escape to give racemic background reaction; cage escape is the selectivity-determining branch.", "probe_reagents": [{"name": "Adamantyl benzoylformate 3e (bulky, non-H-bond-accepting α-ketoester)", "smiles": null, "purpose": "intermediate_trap", "observation": "NMR titration shows Ka < 10 with catalyst 1f (no ground-state binding) while still being quenched (KSV = 4000 M^-1, KD = 3700 M^-1), supporting a triplet rebound (dynamic) pathway rather than static binding."}, {"name": "Quinolone substrate 2", "smiles": null, "purpose": "intermediate_trap", "observation": "NMR isotherm fits 1:2 binding (Ka1 = 280, Ka2 = 180) with catalyst 1f; strong static + dynamic quenching (KSV = 9400 M^-1, KD = 7100 M^-1, with static component KS = 280 M^-1) showing pre-association of quinolone."}, {"name": "Cyclic voltammetry of 2 and 3e", "smiles": null, "purpose": "redox_probe", "observation": "Eox > +1.75 V and Ered < -1.4 to -1.7 V vs SCE for both substrates, outside the photocatalyst window (+1.23 / -1.13 V), ruling out single-electron transfer and supporting energy transfer."}, {"name": "Triplet energy comparison (ET of 1f = 63 kcal/mol; 2 = 55; 3e = 61 kcal/mol)", "smiles": null, "purpose": "redox_probe", "observation": "Dexter energy transfer thermodynamically feasible to both substrates, consistent with competing quenching pathways."}, {"name": "Time-resolved emission (Stern–Volmer) of 1f with 2 and 3e", "smiles": null, "purpose": "other", "observation": "Single-exponential decays give KD values that quantify dynamic quenching by each component; supports collisional energy transfer."}, {"name": "Air/oxygen exposure", "smiles": null, "purpose": "intermediate_trap", "observation": "Dissolved O2 quenches triplet ketoester (longer-lived for bulkier 3e), lowering ee — consistent with a free triplet ketoester intermediate whose lifetime governs cage escape."}, {"name": "Slow addition (syringe pump) of quinolone 2", "smiles": null, "purpose": "other", "observation": "Reducing [2] suppresses competitive Dexter quenching by quinolone and the transposed Paternò–Büchi pathway, raising ee to 86–98%."}, {"name": "Coumarin analog lacking N–H", "smiles": null, "purpose": "other", "observation": "Failed to give Paternò–Büchi product, confirming essential role of H-bonding to the catalyst pyrazole N–H."}], "evidence_types_used": ["UV_vis", "stoichiometric_intermediate", "cyclic_voltammetry", "kinetic_order", "intermediate_trap_other", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Favored mechanism is 'triplet rebound': catalyst H-bonds the quinolone in the ground state but selectively sensitizes the unbound ketoester, which then reacts back with the bound quinolone inside the solvent cage to give high ee. Two competing pathways erode ee: (i) cage escape of triplet ketoester followed by reaction with free quinolone (racemic), and (ii) Dexter energy transfer to bound quinolone giving triplet 2* that reacts with ground-state ketoester (a 'transposed Paternò–Büchi' pathway with low ee). Sensitivity of ee to ketoester substitution is attributed to changes in triplet lifetime and cage escape efficiency. SET is excluded by mismatched redox potentials."}
